US07214690B2
To a solution of (R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methallyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (0.010 g, 0.025 mmol in 1.5 mL EtOAc and 0.1 mL Et3N was added 10% Pd on carbon (0.006 g) and the mixture was vigorously stirred under H2 atmosphere for 1 h. The reaction mixture was filtered through Celite and concentrated to afford 0.010 g (100% yield) of (R)-3-ethyl-3,4-dihydro-4-isobutyl-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline, a yellow oil. This material (0.010 g, 0.025 mmol) was carried on according to General Method 4 (EXAMPLE 1) by treatment with conc. HCl (0.5 mL) in AcOH (1.0 mL) and heated at 95° C. to afford Compound 115 (0.008 g, 89% yield) as a yellow solid. Rf 0.5 (9:1 CH2Cl2:MeOH); 1H NMR (400 MHz, CDCl3) δ 11.81 (broad s, 1H), 7.11 (s, 1H), 7.00 (d, 1H, J=9.0), 6.92 (d, 1H, J=9.0), 4.33 (dd, ABX, 1H, J=10.4, 1.2), 3.98 (dd, ABX, 1H, J=10.4, 2.3), 3.23 (dd, ABX, 1H, J=14.5, 4.8), 3.15–3.10 (m, 1H), 2.80 (dd, ABX, 1H, J=14.5, 9.8), 2.07–1.97 (m, 1H), 1.62–1.49 (m, 2H), 1.01 (d, 3H, J=6.5), 0.98–0.92 (m, 6H).

reactant | (R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methallyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | C(C)[C@H]1N(C=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1)CC(C)=C | C21H25F3N2O2
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 1.5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd on carbon | 0.006 g | [Pd] | Pd
product | (R)-3-ethyl-3,4-dihydro-4-isobutyl-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.010 g, 100% yield | C(C)[C@H]1N(C=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1)CC(C)C | C21H27F3N2O2
